US08957080B2
To a solution of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (4.0 g, 15.32 mmol, 1.0 eq), (S)-3-hydroxypiperidine-1-carboxylic acid tert-butyl ester (4.313 g, 21.44 mmol, 1.4 eq), and PPh3 (8.031 g, 30.64 mmol, 2.0 eq) in dry THF (200 mL), DIAD (4.658 g, 22.98 mmol, 1.5 eq) was added at room temperature. The reaction mixture was stirred at 70° C. for 72 h. The reaction mixture was concentrated and purified by silica gel chromatography (eluted with PE: EtOAc=1:1) to afford (R)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate (2.8 g, 41.2% in yield).

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 15.32 mmol, 4.0 g, 1.0 eq | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | (S)-3-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 21.44 mmol, 4.313 g, 1.4 eq | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)O | C10H19NO3
reactant | PPh3 | 30.64 mmol, 8.031 g, 2.0 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 22.98 mmol, 4.658 g, 1.5 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate | 2.8 g, 41.2% | NC1=C2C(=NC=N1)N(N=C2I)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
